US07405305B2
a) Benzyl-(1H-indol-7-ylmethyl)amine
Add benzyl amine (7.5 g, 69.7 mmol), sodium triacetoxyborohydride (20.7 g, 97.5 mmol) and acetic acid (6.0 mL, 104.6 mmol) to a solution of 1H-indole-7-carboxaldehyde (10.1 g, 69.7 mmol) in 1,2-dichloroethane (100 mL). Stir at ambient temperature for 24 hours. Dilute with dichloromethane and wash the organic layer with water. Dry with magnesium sulfate and concentrate. Purify by chromatography (silica gel; ethyl acetate/methanol; 10:0.3 to 10:1) to yield a light yellow solid (13.5 g, 82%). MS (ESI) m/z 237 (M+H)+.

reactant | benzyl amine | 69.7 mmol, 7.5 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 97.5 mmol, 20.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 104.6 mmol, 6.0 mL | C(C)(=O)O | C2H4O2
reactant | 1H-indole-7-carboxaldehyde | 69.7 mmol, 10.1 g | N1C=CC2=CC=CC(=C12)C=O | C9H7NO
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Benzyl-(1H-indol-7-ylmethyl)amine | 13.5 g, 82% | C(C1=CC=CC=C1)NCC=1C=CC=C2C=CNC12 | C16H16N2
